US08017610B2
(3a) 2-[1-(Triisopropylsilyl)-1H-pyrrol-2-yl]-1,3-thiazole
2-(1H-Pyrrol-2-yl)-1,3-thiazole (1.42 g, 9.45 mmol) known in the literature {Eur. J. Org. Chem. (European Journal of Organic Chemistry) vol. 2000, no. 13, 2449-2458 (2000)} was dissolved in N,N-dimethylformamide (100 mL), and cooled to 0° C. Sodium hydride (60% oil, 570 mg, 14.3 mmol) and triisopropylsilyl chloride (4.0 mL, 18.7 mmol) were added, and stirring was carried out at room temperature for 30 minutes under nitrogen atmosphere. Water (100 mL) and diethyl ether (100 mL) were added, and the solution was separated. The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: hexane) to afford the desired compound (2.33 g, yield 80%) as a pale yellow oil.

reactant | 2-(1H-Pyrrol-2-yl)-1,3-thiazole | 9.45 mmol, 1.42 g | N1C(=CC=C1)C=1SC=CN1 | C7H6N2S
reactant | Sodium hydride | 14.3 mmol, 570 mg | [H-].[Na+]
reactant | triisopropylsilyl chloride | 18.7 mmol, 4.0 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | Water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-[1-(Triisopropylsilyl)-1H-pyrrol-2-yl]-1,3-thiazole | 2.33 g, yield 80% | C(C)(C)[Si](N1C(=CC=C1)C=1SC=CN1)(C(C)C)C(C)C | C16H26N2SSi
